US06610707B1
Sodium sulphite (12.6 g) in water (25 ml) was added to a stirred solution of benzyl 3-(bromomethyl)-1-piperidinecarboxylate (7.8 g) [Preparation 60] in dioxan (25 ml). The reaction mixture was stirred at reflux for 18 hrs, after which time the solvent was removed under reduced pressure and the residue partitioned between ethyl acetate and water. The aqueous solution was separated and acidified with 2N aqueous hydrochloric acid. The product was then extracted with ethyl acetate, dried over magnesium sulphate and the solvent removed under reduced pressure to afford 1-[(benzyloxy)carbonyl]-3-piperidylmethanesulfonic acid as a hygroscopic solid (4.5 g).

reactant | Sodium sulphite | 12.6 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | benzyl 3-(bromomethyl)-1-piperidinecarboxylate | 7.8 g | BrCC1CN(CCC1)C(=O)OCC1=CC=CC=C1 | C14H18BrNO2
solvent | water | 25 ml | O | H2O
solvent | dioxan | 25 ml | O1CCOCC1 | C4H8O2
product | 1-[(benzyloxy)carbonyl]-3-piperidylmethanesulfonic acid | C(C1=CC=CC=C1)OC(=O)N1CC(CCC1)CS(=O)(=O)O | C14H19NO5S
